US07553840B2
In a microwave vial, 4-bromo-2-methyl-thiophene (653 mg, 3.69 mmol), 2-formyl phenylboronic acid (500 mg, 3.36 mmol) and 7 ml of actonitrile were mixed. 6.7 ml of 1N aqueous sodium carbonate was added to above solution, followed by 5 mole percent of dichlorobis(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, 50 ml of ethyl acetate was added, the organic layer was separated, washed with water, dried with sodium sulfate, the organic solvent was evaporated and the residue was purified by ISCO to give 550 mg of 2-(5-methyl-thiophen-3-yl)benzaldehyde, yield 81%.

reactant | 4-bromo-2-methyl-thiophene | 3.69 mmol, 653 mg | BrC=1C=C(SC1)C | C5H5BrS
reactant | 2-formyl phenylboronic acid | 3.36 mmol, 500 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | actonitrile | 7 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1N, 6.7 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(5-methyl-thiophen-3-yl)benzaldehyde | 550 mg, yield 81% | CC1=CC(=CS1)C1=C(C=O)C=CC=C1 | C12H10OS
